US04219657
(F) 3-chlorocarbonyldibenzothiophene
To a suspension of 8.9 g. of dibenzothiophene-3-carboxylic acid potassium salt in 200 ml. of benzene was added dropwise with stirring over a period of 30 minutes, a solution of 6.4 g. of oxalyl chloride in 50 ml. of benzene. The mixture was stirred and refluxed for two hours. The mixture was filtered and the solvent was removed in vacuo on the steam bath. The residue, 3-chlorocarbonyldibenzothiphene (7.9 g.) was used directly in the next step.

reactant | dibenzothiophene-3-carboxylic acid potassium salt | [K+].C1=CC(=CC=2SC3=C(C21)C=CC=C3)C(=O)[O-]
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-chlorocarbonyldibenzothiophene | ClC(=O)C=1C=CC2=C(SC3=C2C=CC=C3)C1 | C13H7ClOS
